US07411072B2
Following the procedure essentially as described for Example 219, below, and using 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (300 mg, 1.05 mmol) and (3-amino-4-methylphenyl)boronic acid hydrochloride (217 mg, 1.16 mmol), yields 245 mg (75%) 5-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-2-methyl-phenylamine as a brown oil. Then, following procedures essentially as described in Example 90, below, and using 5-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-2-methyl-phenylamine (100 mg, 0.321 mmol), affords 35 mg (28%) of the title compound as a colorless oil. MS (ES) 407 (M+NH4), 388 (M−H); HPLC shows 98% purity.

reactant | 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1.05 mmol, 300 mg | BrC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H13Br
reactant | (3-amino-4-methylphenyl)boronic acid hydrochloride | 1.16 mmol, 217 mg | Cl.NC=1C=C(C=CC1C)B(O)O
product | 5-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-2-methyl-phenylamine | 245 mg, 75% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=CC(=C(C3)N)C | C23H21N
